US09079985B2
Diethyl (2,2-dimethylpropyl)malonate
In 2-liter stainless steel pressure reactor, to a solution of 114 g (0.50 mol) of diethyl (2,2-dimethylpropylidene)malonate in 650 ml of ethanol 1.60 g of 10% Pd/C was added. Hydrogenation was carried at 5 atm of hydrogen gas for 6 h at 40° C. The following GC analysis showed that conversion of the starting material into the title product was almost quantitative. The reaction mixture was added to 1500 cm3 of cold water, and the product was extracted by 3×300 ml of dichloromethane. The combined organic extract was passed through short layer of silica gel 60 (40-63 um), evaporated in vacuum, and then used without an additional purification. Yield of the title material was almost quantitative.

reactant | diethyl (2,2-dimethylpropylidene)malonate | 0.50 mol, 114 g | CC(C=C(C(=O)OCC)C(=O)OCC)(C)C | C12H20O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 650 ml, 1.60 g | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | Diethyl (2,2-dimethylpropyl)malonate | CC(CC(C(=O)OCC)C(=O)OCC)(C)C | C12H22O4
